Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with a past medical history of Alzheimer's 
dementia, post-polio neurologic deficit, and prostate cancer who 
is a poor historian, but presents with lethargy in the setting 
of UTI. History taken from chart review
and discussion with health care proxy. 

Patient was at recent baseline until about 5 days ago. Patient 
seemed more lethargic for about 24 hours. Per HCP, the 
outpatient provider recommended close monitoring at home with 
aides. Oxybutynin was held at that time as potential trigger for 
lethargy. The patient actually improved for about 2 days, but 
then had recurrence of lethargy. The second episode was 
associated with some shaking chills, but no documented fever. 
Patient does not communicate well at baseline, but did not 
localize any pain. He had no apparent respiratory distress or 
cough. He had no change in urinary pattern, but is incontinent 
at
baseline of urine to diaper. Patient was brought to the hospital 
where urinalysis suggested UTI and patient appeared volume 
depleted with ___. 

 
Past Medical History:
PAST MEDICAL HISTORY:
1.  Post-polio neurologic deficits.
2.  Hypertension.
3.  Prostate cancer.
4.  Renal mass on the left kidney concerning for RCC.
5.  h/o PE in ___, no long on anticoagulation
6.  Alzheimer's dementia

PAST SURGICAL HISTORY:  The patient is status post suprapubic
partial prostatectomy done in ___, for obstructive symptoms. 
This was done by Dr. ___ at ___.

 
Social History:
___
Family History:
No family history of bleeding or clotting disorders.
 
Physical Exam:
VITALS: ___ 1107 Temp: 97.6 PO BP: 121/70 HR: 72 RR: 16 O2 
sat: 96% O2 delivery: Ra 

EXAMINATION:
GENERAL: Alert. In no apparent distress. Sitting in chair.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, No JVD. Radial and DP pulses 
present. Trace edema of left lower extremity, 1+ edema of right 
lower extremity. 
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen is soft, non-distended, non-tender. Bowel sounds 
present.  
GU: No suprapubic tenderness 
MSK: Neck supple, moves all extremities
Strength decreased in all extremities 4+/5 throughout, but even 
less in right lower extremity (HCP reports this has always been 
the weakest extremity).
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech limited often just saying okay. Follows basic 
commands. Moves all limbs with strength as above. 
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 06:20AM BLOOD WBC-11.0* RBC-4.08* Hgb-12.6* Hct-39.0* 
MCV-96 MCH-30.9 MCHC-32.3 RDW-16.3* RDWSD-57.4* Plt ___
___ 06:20AM BLOOD Glucose-97 UreaN-42* Creat-2.3* Na-147 
K-4.6 Cl-110* HCO3-22 AnGap-15
___ 07:27PM BLOOD Glucose-116* UreaN-51* Creat-2.6* Na-145 
K-5.8* Cl-111* HCO3-22 AnGap-12
___ 10:13PM BLOOD ALT-12 AST-12 AlkPhos-76 TotBili-0.3
___ 10:13PM BLOOD Albumin-3.5
___ 12:36AM BLOOD Lactate-1.8

___ 01:15AM URINE Color: Straw Appear: Hazy* Sp ___: 1.013 

___ 01:15AM URINE Blood: LG* Nitrite: POS* Protein: 100* 
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 7.5 
Leuks: LG* 
___ 01:15AM URINE RBC: 141* WBC: >182* Bacteri: FEW* Yeast: 
NONE Epi: 0 
___ 01:15AM URINE CastHy: 3* 
___ 01:15AM URINE Mucous: RARE* 

I personally reviewed the X-ray and my interpretation is:
No focal opacity to suggest pneumonia. No pulmonary edema. No 
large pleural effusion. 

CT HEAD W/O CONTRAST Study Date of ___ 11:34 ___ 
IMPRESSION: No evidence of acute hemorrhage, mass, territorial 
infarct. Notable for involutional changes.

___ 1:15 am URINE

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 CFU/mL.
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a ___ male with a 
past medical history of Alzheimer's dementia, post-polio 
neurologic deficit, and prostate cancer who is a poor historian, 
but presents with lethargy in the setting of UTI. History taken 
from chart review and discussion with health care proxy.

ACUTE/ACTIVE PROBLEMS:
# Acute metabolic encephalopathy
# Decompensated Alzheimer's dementia
# Acute on chronic weakness
# Post-polio syndrome/neurologic deficits.
# Poor oral intake
Patient presented with increased lethargy from baseline. At 
baseline, patient has minimal conversation. Weakness is 
characterized by inability to transfer by self and is wheelchair 
bound. Patient improved from initial presentation and was 
approaching his baseline prior to discharge. Patient was treated 
for underlying triggers of acute encephalopathy and monitored 
with Delirium precautions. Patient is encouraged to follow with 
outpatient palliative care evaluations and possible transition 
to hospice. ___ evaluation consultation recommend home with 
increased services.  Nutrition recommend liberalized diet and 
adding Ensure Enlive BID as alternative source of calories. 
Patient continued on Donepezil and memantine. 

# Acute urinary tract infection.
Patient treated with IV ceftriaxone. Patient responded to 
therapy. Patient discharged on cefpodoxime to complete 
antibiotic course. Urine culture reveals > ___ cfu of 
Escherichia coli. 

# Acute renal failure on CKD is likely multifactorial with 
prerenal azotemia with resultant ATN from volume depletion of 
poor oral intake, infection, and medication effect (losartan). 
Hold losartan on discharge pending outpatient provider follow 
up. 

# Essential Hypertension. Hold losartan
# H/o Prostate cancer. S/p prostatectomy. 
# Renal mass on the left kidney concerning for RCC. Continue 
palliative care. 
# h/o PE in ___. No longer on anticoagulation.

Hospital course, assessments, and discharge plans discussed with 
patient's HCP who expressed understanding and agreed to 
discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Losartan Potassium 25 mg PO DAILY 
3. Memantine 10 mg PO BID 
4. Pravastatin 5 mg PO QPM 
5. melatonin 5 mg oral QHS 
6. Oxybutynin XL   (*NF*)  10 mg Other daily 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Cefpodoxime Proxetil 200 mg PO Q24H Duration: 2 Doses 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
3.  Donepezil 10 mg PO QHS  
4.  melatonin 5 mg oral QHS  
5.  Memantine 10 mg PO BID  
6.  Oxybutynin XL   (*NF*)  10 mg Other daily  
7.  Pravastatin 5 mg PO QPM  
8. HELD- Losartan Potassium 25 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until instructed by 
outpatient provider. Held due to impaired renal function.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Acute metabolic encephalopathy 
# Acute urinary tract infection 
# Decompensated Alzheimer's dementia 
# Acute on chronic weakness 
# Post-polio syndrome/neurologic deficits. 
# Poor oral intake 
# Acute renal failure 
# Essential Hypertension. Hold losartan 
# H/o Prostate cancer. S/p prostatectomy.  
# Renal mass on the left kidney concerning for RCC. Continue 
palliative care.  
# h/o PE in ___. 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted from home with increased lethargy in the 
setting of a urinary tract infection. Your symptoms resolved 
with treatment on IV antibiotics. You will be transitioned to 
oral antibiotics to complete a 5 day total antibiotic course on 
discharge. We recommend that you continue to follow with your 
outpatient providers including palliative care, nephrology, and 
PCP.
We wish you all the best, 
Your ___ Care team

 
Followup Instructions:
___